* c:\users\sabarishmohan\esim-workspace\mc1496_test\mc1496_test.cir

.include mc1496.sub
x1 mod net-_r7-pad2_ net-_r7-pad1_ net-_r3-pad1_ net-_r8-pad1_ pos_op ? net-_c1-pad1_ ? carr ? neg_op ? net-_x1-pad14_ mc1496
r6  net-_r3-pad1_ gnd 51
r4  mod gnd 51
r3  net-_r3-pad1_ net-_r2-pad2_ 10k
r1  mod net-_r1-pad2_ 10k
r2  net-_r1-pad2_ net-_r2-pad2_ 50k
r7  net-_r7-pad1_ net-_r7-pad2_ 1k
r8  net-_r8-pad1_ gnd 6.8k
r9  pos_op net-_r10-pad2_ 3.9k
r11  net-_r10-pad2_ neg_op 3.9k
v2  net-_r10-pad2_ gnd 12
r10  net-_c1-pad1_ net-_r10-pad2_ 1k
c1  net-_c1-pad1_ gnd 0.1u
r5  gnd net-_c1-pad1_ 1k
r12  carr net-_c1-pad1_ 51
v1  mod gnd sine(0 1 1000)
v3  carr gnd sine(0 1 10000)
* u1  mod plot_v1
* u4  carr plot_v1
* u3  neg_op plot_v1
* u2  pos_op plot_v1
v4  net-_x1-pad14_ net-_r13-pad1_ -8
r13  net-_r13-pad1_ gnd 1k
.tran 0.1e-06 5e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(mod)
plot v(carr)
plot v(neg_op)
plot v(pos_op)
.endc
.end
